US05563158
Benzyl N-(3-chloromethylbenzoyl)-3-aminopropionate (XVIII).
This compound was synthesized in a similar way as for I from 3-chloromethylbenzoyl chloride (3 mmol, 426 mL), benzyl 3-aminopropionate toluenesulfonic acid salt (3.2 mmol, 1.12 g) and triethylamine (7 mmol, 0.98 mL). Crystallization from ether-petroleum ether gave 1.0 g (100%) product. NMR (DMSO-d6): δ 8.62 (t, 1H); 7.88 (s, 1H); 7.78 (d, 1H); 7.46 (t, 1H); 7.32 (m, 5H); 5.10 (s, 2H); 4.80 (s, 2H); 3.52 (m, 2H); 3.65 (t, 2H).

reactant | 3-chloromethylbenzoyl chloride | 3 mmol, 426 mL | ClCC=1C=C(C(=O)Cl)C=CC1 | C8H6Cl2O
reactant | benzyl 3-aminopropionate toluenesulfonic acid salt | 3.2 mmol, 1.12 g | C=1(C(=CC=CC1)S(=O)(=O)O)C.NCCC(=O)OCC1=CC=CC=C1
reactant | triethylamine | 7 mmol, 0.98 mL | C(C)N(CC)CC | C6H15N
product | Benzyl N-(3-chloromethylbenzoyl)-3-aminopropionate | 1.0 g, 100% | ClCC=1C=C(C(=O)NCCC(=O)OCC2=CC=CC=C2)C=CC1 | C18H18ClNO3
